data/oMe_Silver.jsonl
{"reaction_id": "NR-201_1-S(=O)(=O)c2ccccc2_2-c2ccccc2","level": "medium","name": "Nazarov Cyclization Reaction","reactants_smiles": ["C(C(S(=O)(=O)c2ccccc2))=CC(=O)C=C(C(c2ccccc2))","CS(=O)(=O)O"],"products_smiles": ["C(c2ccccc2)C1=CC(=O)CC1(S(=O)(=O)c2ccccc2)"],"conditions": "H+ OSO2Me","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(S(=O)(=O)c2ccccc2))=CC(=[OH+])C=CC(c2ccccc2)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases electrophilicity and stabilizes the developing positive charge via resonance, facilitating oxyallyl cation formation under strong acid."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1(=CC(C([CH+]1)C(S(=O)(=O)c2ccccc2))C(c2ccccc2))O","step_weight": 0,"rationale": "The oxyallyl cation undergoes a conrotatory 4π-electrocyclization, favored by orbital symmetry and leading to a cyclopentenyl cation stabilized by adjacent substituents."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(=CC(C(=C1)C(c2ccccc2))C(S(=O)(=O)c2ccccc2))O","step_weight": 0,"rationale": "Deprotonation relieves positive charge on the cyclopentenyl cation, driven by formation of a more conjugated alkene system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c2ccccc2)C1=CC(=O)CC1(C(S(=O)(=O)c2ccccc2))","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the enol to the more stable conjugated ketone, favored by carbonyl bond strength and extended π-conjugation."}],"description": "Under strong acid conditions, the divinyl ketone is protonated to activate the carbonyl toward cation formation. This enables oxyallyl cation generation, which undergoes a Nazarov 4π-electrocyclization to form a cyclopentenyl cation. Subsequent deprotonation and tautomerization yield the thermodynamically stable cyclopentenone product."}
{"reaction_id": "NR-206_1-SC","level": "medium","name": "Norrish Reaction","reactants_smiles": ["O=C(C)CSC"],"products_smiles": ["SCCC=C"],"conditions": "hv","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "[CH3]C=O.[CH2]C(SC)","step_weight": 0,"rationale": "UV light excites the carbonyl to a singlet or triplet state, weakening the α C–C bond via n→π* excitation, enabling homolytic cleavage to yield stabilized acyl and alkyl radicals."},{"step": 2,"type": "radical","subtype": "radical_termination","intermediate_smiles": "SCC=C","step_weight": 0,"rationale": "The alkyl radical undergoes β-scission or recombination, forming a C=C bond; radical termination is favored due to the stability of the conjugated alkene and the absence of further radical sources."}],"description": "Under UV irradiation, the carbonyl absorbs light and undergoes α-cleavage (Norrish Type I), generating radical fragments. These radicals then recombine or rearrange to form the alkene product, driven by radical stability and relief of electronic strain."}
{"reaction_id": "NR-001_1-COc1ccccc1_2-CN(C)c1ccccc1","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(COc1ccccc1)(CN(C)c1ccccc1)C=O","C(COc1ccccc1)(CN(C)c1ccccc1)C=O"],"products_smiles": ["C(COc1ccccc1)(CN(C)c1ccccc1)C(O)C(COc1ccccc1)(CN(C)c1ccccc1)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(COc1ccccc1)(CN(C)c1ccccc1)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(COc1ccccc1)(CN(C)c1ccccc1)C([O-])C(COc1ccccc1)(CN(C)c1ccccc1)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(COc1ccccc1)(CN(C)c1ccccc1)C(O)C(COc1ccccc1)(CN(C)c1ccccc1)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
